US07491732B2
Propionitrile (32 mL), diisopropylethylamine (2.5 g, 19.58 mmol) were added to a mixture of 4-nitrobenzyl alcohol (1 g, 6.53 mmol) and (cyanomethyl)trimethylphosphonium iodide (4 g, 16.32 mmol). The mixture was heated at 97° C. for 24 h. Water (1 mL) was added to the mixture and followed by conc. HCl (5 mL). Ethyl acetate (3×100 mL) was used to extract the product. Organic layer was washed with brine, dried with sodium sulfate, concentrated to give dark brown solid. The crude product was purified by flash column chromatography (Ethyl acetate:Hexanes 1:1) to give 740 mg of 3-(4-nitrophenyl)propionitrile as a light orange solid. 1H NMR (DMSO-d6): δ 8.20-8.17 (dd, J=8.7 Hz, 2H), 7.59-7.56 (d, J=9.0 Hz, 2H), 3.06-3.01 (m, 2H).

reactant | Propionitrile | 32 mL | C(CC)#N | C3H5N
reactant | diisopropylethylamine | 19.58 mmol, 2.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl alcohol | 6.53 mmol, 1 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | (cyanomethyl)trimethylphosphonium iodide | 16.32 mmol, 4 g | [I-].C(#N)C[P+](C)(C)C
reactant | HCl | 5 mL | Cl | ClH
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 1 mL | O | H2O
product | 3-(4-nitrophenyl)propionitrile | 740 mg | [N+](=O)([O-])C1=CC=C(C=C1)CCC#N | C9H8N2O2
